US04489003
A mixture of 6.92 g (0.02 mol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 100 ml of propargyl alcohol and 0.4 g of potassium cyanide is heated to boiling under reflux for 4 hours, 75 ml of the solvent are then removed by distillation, 75 ml of propargyl alcohol are added to the mixture and the resulting mixture is heated to boiling under reflux for a further 16 hours. The mixture is concentrated, 25 ml of water are added to the residue and the mixture obtained is extracted three times with 25 ml of chloroform each time, the chloroform solution is dried over magnesium sulphate and evaporated. The residue is chromatographed on silica gel while eluting with ethyl acetate. By recrystallization from ethyl acetate there is obtained 2-propynyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 213°-214°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 0.02 mol, 6.92 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 0.4 g | [C-]#N.[K+]
solvent | propargyl alcohol | 100 ml | C(C#C)O | C3H4O
product | 2-propynyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC#C)CCC1)=O | C18H14ClN3O3
